* Copyright © Analog Devices, Inc. 2019.  All rights reserved.
*
.subckt LT5400-1 1 2 3 4 5 6 7 8 9
R1 8 1 10K
R2 7 2 10K
R3 6 3 10K
R4 5 4 10K
C1 1 9 2.75p
C3 2 9 2.75p
C4 3 9 2.75p
C5 4 9 2.75p
C6 8 9 2.75p
C7 7 9 2.75p
C8 6 9 2.75p
C9 5 9 2.75p
C10 1 2 .7p
C11 2 3 .7p
C12 3 4 .7p
C13 8 7 .7p
C14 7 6 .7p
C15 6 5 .7p
.ends LT5400-1
*
.subckt LT5400-2 1 2 3 4 5 6 7 8 9
C1 1 9 2.75p
C2 2 9 2.75p
C3 3 9 2.75p
C4 4 9 2.75p
C5 8 9 2.75p
C6 7 9 2.75p
C7 6 9 2.75p
C8 5 9 2.75p
C9 1 2 .7p
C10 2 3 .7p
C11 3 4 .7p
C12 8 7 .7p
C13 7 6 .7p
C14 6 5 .7p
R1 8 1 100K
R2 7 2 100K
R3 6 3 100K
R4 5 4 100K
.ends LT5400-2
*
.subckt LT5400-3 1 2 3 4 5 6 7 8 9
R1 8 1 100K
R2 7 2 10K
R3 6 3 10K
R4 5 4 100K
C1 1 9 2.75p
C2 2 9 2.75p
C3 3 9 2.75p
C4 4 9 2.75p
C5 8 9 2.75p
C6 7 9 2.75p
C7 6 9 2.75p
C8 5 9 2.75p
C9 1 2 .7p
C10 2 3 .7p
C11 3 4 .7p
C12 8 7 .7p
C13 7 6 .7p
C14 6 5 .7p
.ends LT5400-3
*
.subckt LT5400-4 1 2 3 4 5 6 7 8 9
R1 8 1 1K
R2 7 2 1K
R3 6 3 1K
R4 5 4 1K
C1 1 9 2.75p
C2 2 9 2.75p
C3 3 9 2.75p
C4 4 9 2.75p
C5 8 9 2.75p
C6 7 9 2.75p
C7 6 9 2.75p
C8 5 9 2.75p
C9 1 2 .7p
C10 2 3 .7p
C11 3 4 .7p
C12 8 7 .7p
C13 7 6 .7p
C14 6 5 .7p
.ends LT5400-4
*
.subckt LT5400-5 1 2 3 4 5 6 7 8 9
R1 8 1 1Meg
R2 7 2 1Meg
R3 6 3 1Meg
R4 5 4 1Meg
C1 1 9 2.75p
C2 2 9 2.75p
C3 3 9 2.75p
C4 4 9 2.75p
C5 8 9 2.75p
C6 7 9 2.75p
C7 6 9 2.75p
C8 5 9 2.75p
C9 1 2 .7p
C10 2 3 .7p
C11 3 4 .7p
C12 8 7 .7p
C13 7 6 .7p
C14 6 5 .7p
.ends LT5400-5
*
.subckt LT5400-6 1 2 3 4 5 6 7 8 9
R1 8 1 5K
R2 7 2 1K
R3 6 3 1K
R4 5 4 5K
C1 1 9 2.75p
C2 2 9 2.75p
C3 3 9 2.75p
C4 4 9 2.75p
C5 8 9 2.75p
C6 7 9 2.75p
C7 6 9 2.75p
C8 5 9 2.75p
C9 1 2 .7p
C10 2 3 .7p
C11 3 4 .7p
C12 8 7 .7p
C13 7 6 .7p
C14 6 5 .7p
.ends LT5400-6
*
.subckt LT5400-7 1 2 3 4 5 6 7 8 9
R1 8 1 5K
R2 7 2 1.25K
R3 6 3 1.25K
R4 5 4 5K
C1 1 9 2.75p
C2 2 9 2.75p
C3 3 9 2.75p
C4 4 9 2.75p
C5 8 9 2.75p
C6 7 9 2.75p
C7 6 9 2.75p
C8 5 9 2.75p
C9 1 2 .7p
C10 2 3 .7p
C11 3 4 .7p
C12 8 7 .7p
C13 7 6 .7p
C14 6 5 .7p
.ends LT5400-7
*
.subckt LT5400-8 1 2 3 4 5 6 7 8 9
R1 8 1 9K
R2 7 2 1K
R3 6 3 1K
R4 5 4 9K
C1 1 9 2.75p
C2 2 9 2.75p
C3 3 9 2.75p
C4 4 9 2.75p
C5 8 9 2.75p
C6 7 9 2.75p
C7 6 9 2.75p
C8 5 9 2.75p
C9 1 2 .7p
C10 2 3 .7p
C11 3 4 .7p
C12 8 7 .7p
C13 7 6 .7p
C14 6 5 .7p
.ends LT5400-8
*
.subckt LT5401 1 2 3 4 5 6 7 8 9 10 11
D1 1 11 ESD
C3 5 11 3.4p
C4 4 11 3.4p
C5 3 11 3.4p
C6 2 11 3.4p
C7 9 11 3.4p
C8 6 11 3.4p
C9 7 11 3.4p
C10 8 11 3.4p
C11 5 1 .5p Rpar=700
C12 4 5 .5p Rpar=350
C13 3 4 .5p Rpar=350
C15 6 10 .5p Rpar=700
C16 7 6 .5p Rpar=350
C17 8 7 .5p Rpar=350
C14 2 3 .5p Rpar=700
C18 9 8 .5p Rpar=700
C1 1 11 3.4p
C2 10 11 3.4p
D2 10 11 ESD
.model ESD D(Ron=1 Roff=1T epsilon=1 revepsilon=1 Vfwd=37 Vrev=37)
.ends LT5401
